US05272030
In a 100-ml flask equipped with a stirrer, a thermometer, a nitrogen introducing pipe and a condenser, 50 ml (0.297 mol) of trifluoromethanesulfonic anhydride and 25 ml (0.342 mole) of 2,2,2-trifluoroethanol were placed at room temperature and stirred for 30 minutes in a nitrogen atmosphose, followed by reflux for 3 hours. After distillation, 50.3 g of 2,2,2-trifluoroethyl trifluoromethanesulfonate was obtained in yield of 73%.

reactant | trifluoromethanesulfonic anhydride | 0.297 mol, 50 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2,2,2-trifluoroethanol | 0.342 mole, 25 ml | FC(CO)(F)F | C2H3F3O
product | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 50.3 g, yield of 73% | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
